spice
* SPICE Netlist for the Circuit

VCC 3 2 DC 10V      ; Voltage source simulating Vcc

I1 3 2 DC 1mA       ; Current Source

R1 2 5 1k           ; Resistor R1
R2 5 4 1k           ; Resistor R2
RS 4 0 1k           ; Resistor RS

Q1 2 5 4 NPN        ; NPN Transistor Q1

.model NPN NPN (IS=1E-14 BF=100)

.end